US06342765B1
A solution of tert-butyl (2S)-2-{-5-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy]-2-(4-fluorophenethyl)benzoylamino}-4-methylsulfonylbutyrate, (88 mg, 0.13 mmol) in TFA (2 ml), was stirred and cooled in an ice-bath for 3 hours. The TFA was removed by evaporation, the residue was dissolved in ethyl acetate and 1M HCl/diethylether (5 ml). Removal of the solvent gave a brown oil which on trituration with diethylether/iso-hexane (3×) gave the HCl salt of the title compound as a sticky white solid (40 mg).

reactant | tert-butyl (2S)-2-{-5-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy]-2-(4-fluorophenethyl)benzoylamino}-4-methylsulfonylbutyrate | 0.13 mmol, 88 mg | FC1=CC=C(C=C1)C(CN1C=NC=C1)OC=1C=CC(=C(C(=O)N[C@H](C(=O)OC(C)(C)C)CCS(=O)(=O)C)C1)CCC1=CC=C(C=C1)F | C35H39F2N3O6S
solvent | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | diethylether iso-hexane | C(C)OCC.CCCC(C)C | InChI=1S/C6H14.C4H10O/c1-4-5-6(2)3;1-3-5-4-2/h6H,4-5H2,1-3H3;3-4H2,1-2H3
